Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:15])[C@@:5]1([C:6][H:16])[H:14])([H:7])([H:8])[H:9],85.0738900924041
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5][C:6]1([H:7])[H:11]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],22.253955463056403
[C-:4]#[O+:5].[C:1]([O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[N:2](=[C:3]([H:12])[H:13])[H:11]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],68.3001543810534
[C:1]([C@@:2]1([H:11])[C@@:4]2([C:3]([O:5][H:14])([H:12])[H:13])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],74.9606159502663
[N:1]([C:2]([C@@:3]1([H:11])[C:5]([O:4][H:12])=[N:6]1)([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],45.764080461109
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]1([H:10])[C:5]([H:12])([H:13])[C:6][C:7]1([H:11])[H:14])[H:9])[H:8],100.28119491798901
[C:4](=[C:5]=[O:6])([H:10])[H:11].[O:1]=[C:2]([C:3]([H:8])([H:9])[H:12])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],60.549437184894494
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:7]([C:6]1=[C:2]([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])[H:14],68.8615939131011
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@:3]1([H:11])[C:4](=[C:6]([H:13])[H:14])[O:5]1)([H:7])([H:8])[H:9].[H:10][H:12],85.8731601709648
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C-:1]1([H:7])[C:2]([H:9])([H:10])[C@:3]1([N:4]1[C:5]([H:12])([H:13])[C+:6]1[H:14])[H:11].[H:8][H:15],128.565009665205
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1]([C:2]1=[C:6]=[N:7]1)([O:5][C:4](=[O:3])[H:9])[H:8],97.1839745733972
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]1=[C:6]([H:13])[C:5]1([H:11])[H:12])=[O:7])([H:9])[H:10])[H:8],74.5857403888004
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:4]([O:3][H:10])=[O:5])([H:9])[H:11])([H:6])([H:7])[H:8],92.48278123000601
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([O:2][C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:8])[H:13])([H:11])[H:12])([H:9])([H:10])[H:17],89.04825181064552
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]=[C:5]([O:3][H:11])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],55.2448400712381
[C:1](=[N+:2]=[C-:3][H:10])([H:8])[H:9].[N:4]([C:5](=[O:6])[H:12])([H:7])[H:11]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],30.9636548463477
[C:3](=[C:4]([C:5]#[N:6])[H:11])([H:8])[H:9].[O:1]=[C:2]([H:7])[H:10]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],48.97723896723059
[C+:1]([N:2]([C:3]([N-:4][H:11])=[C:5]=[O:6])[H:10])([H:7])[H:8].[H:9][H:12]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],14.888119488440509
[C:1]([C:2]([C:3]([C:4]([O:5][H:14])=[C:6]([H:15])[H:16])([H:12])[H:13])=[C:7]([H:11])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],100.7015792092606
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C:2]#[N+:3]/[C:4](=[N:5]\[N:6][H:9])[H:8])[H:7],79.3995221162145
[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3](=[C:4]([H:10])[H:12])[C:5]([H:13])([H:14])[H:15])([H:6])([H:7])[H:8].[H:9][H:11],96.83649980247459
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:14])([H:8])([H:9])[H:10].[H:12][H:15]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],72.0670806087315
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:14].[O:3]=[C:4]([H:12])[H:13],65.8282956768264
[H:6][H:7].[N:1]#[C:2][N:3]([C:4](=[O:5])[H:9])[H:8]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],78.81956124370228
[C:1]([C:2]([H:8])([H:10])[H:11])([O+:4]=[C-:3][C:5]([O:6][H:14])([H:12])[H:13])([H:7])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],37.27766230110679
